US07737149B2
A solution of methyl 2-chloropyrimidine-5-carboxylate (200 mg, 1.16 mmol) in dichloromethane (4.00 mL) was added to a stirred solution of 1-ethyl-1,4-diazepane (149 mg, 1.16 mmol) and N-ethyl-N-propan-2-ylpropan-2-amine (0.902 mL, 5.22 mmol) in dichloromethane (4.00 mL) at 25° C. The resulting solution was stirred at ambient temperature for 18 h. The reaction mixture was evaporated to dryness and redissolved in MeOH (20 mL) and the crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford methyl 2-(4-ethyl-1,4-diazepan-1-yl)pyrimidine-5-carboxylate (268 mg, 87%) as a cream oil which crystallised on standing. This was used directly with no further purification.

reactant | methyl 2-chloropyrimidine-5-carboxylate | 1.16 mmol, 200 mg | ClC1=NC=C(C=N1)C(=O)OC | C6H5ClN2O2
reactant | 1-ethyl-1,4-diazepane | 1.16 mmol, 149 mg | C(C)N1CCNCCC1 | C7H16N2
reactant | N-ethyl-N-propan-2-ylpropan-2-amine | 5.22 mmol, 0.902 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 4.00 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4.00 mL | ClCCl | CH2Cl2
product | methyl 2-(4-ethyl-1,4-diazepan-1-yl)pyrimidine-5-carboxylate | 268 mg, 87% | C(C)N1CCN(CCC1)C1=NC=C(C=N1)C(=O)OC | C13H20N4O2
